US05807859
The process is performed as in Example 62 but starting with 0.3 g of 8-[3-(3-fluorophenyl)ureido]-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride, 15 ml of water and 1 ml of 1N sodium hydroxide. After removal of the catalyst, the filtrate is acidified with 2 ml of 1N hydrochloric acid and the precipitate formed is filtered off, washed with distilled water and dried under vacuum (1 mnHg; 0.13 kPa). 0.14 g of 8-[3-(3-fluorophenyl)ureido]-10-(carboxymethyl)-5H,10H-imidazo[1,2-a)indeno[1,2-e]pyrazin-4-one hydrochloride is obtained in the form of a light brown solid melting above 260° C. (1H NMR spectrum (300 MHz; (CD3)2SO-d6 ; δ in ppm]: 2.60 and 3.27 (2 dd, J=16.5 and 9 Hz and J=16.5 and 3.5 Hz respectively, 1H each: CH2); 4.47 (dd, J=9 Hz and 3.5 Hz, 1H: CH 10); 6.80 (dt, J=8.5 and 2 Hz, 1H: aromatic H ortho to the F and para to the ureido); 7.13 (broad d, J=8.5 Hz, 1H: aromatic H para to the F and ortho to the ureido); 7.32 (dt, J=8.5 and 8 Hz, 1H: aromatic H meta to the F and meta to the ureido); 7.44 (dd, J=8.5 and 1.5 Hz, 1H: H 7); 7.53 (d mt, J=12 Hz, 1H: aromatic H ortho to the F and ortho to the ureido); 7.75 and 8.26 (2 broad s, 1H each: H of the imidazole); 7.79 (d, J=8.5 Hz, 1H: H 6), 7.87 (broad s, 1H: H 9); 9.18 and 9.23 (2 broad s, 1H each: NHCONH); 12.65 (s 1H: NH 5)).

reactant | 8-[3-(3-fluorophenyl)ureido]-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride | 0.3 g | Cl.FC=1C=C(C=CC1)NC(NC1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)=CC(=O)O)=O
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 8-[3-(3-fluorophenyl)ureido]-10-(carboxymethyl)-5H,10H-imidazo[1,2-a)indeno[1,2-e]pyrazin-4-one hydrochloride | 0.14 g | Cl.FC=1C=C(C=CC1)NC(NC1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)CC(=O)O)=O | InChI=1S/C22H16FN5O4.ClH/c23-11-2-1-3-12(8-11)25-22(32)26-13-4-5-14-15(9-13)16(10-17(29)30)19-18(14)27-21(31)20-24-6-7-28(19)20;/h1-9,16H,10H2,(H,27,31)(H,29,30)(H2,25,26,32);1H
